US05827865
Ethyl 3-(4-hydroxyphenyl)-2-methoxypropanoate
A solution of ethyl 2-diazo-3-(4-hydroxyphenyl)propanoate (c.f. N. Takamura and T. Mizoguchi, Tetrahedron Lett. 1971, 4495) (8.8 g) in benzene (40 mL) was added over 30 minutes to a stirred, refluxing mixture of rhodium (II) acetate dimer (10 mg), methanol (7.9 mL) and benzene (50 mL). The mixture was heated at reflux for a further 30 minutes, then allowed to cool to room temperature overnight and washed with water (2×200 mL). The benzene solution was dried (MgSO4) and evaporated and the residual oil chromatographed twice on silica gel, firstly with 20% ethyl acetate in hexane as eluent and subsequently with 4% ethyl acetate in dichloromethane as eluent to afford the title compound as an oil.

reactant | ethyl 2-diazo-3-(4-hydroxyphenyl)propanoate | 8.8 g | [N+](=[N-])=C(C(=O)OCC)CC1=CC=C(C=C1)O | C11H12N2O3
reactant | methanol | 7.9 mL | CO | CH4O
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
catalyst | rhodium (II) acetate dimer | 10 mg | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | Ethyl 3-(4-hydroxyphenyl)-2-methoxypropanoate | OC1=CC=C(C=C1)CC(C(=O)OCC)OC | C12H16O4
